### PR TITLE
[Merged by Bors] - chore(RingTheory/AdicValuation,LaurentSeries): switch to `WithZero.exp` instead of coercions of `Multiplicative.ofAdd`

### PR DESCRIPTION
**Pull request by pechersky**
as requested at
https://github.com/leanprover-community/mathlib4/pull/27339#issuecomment-3285102305

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/RatFunc/AsPolynomial.lean [hunk 1]
```diff
@@ -220,8 +220,8 @@ theorem idealX_span : (idealX K).asIdeal = Ideal.span {X} := rfl
 
 @[simp]
 theorem valuation_X_eq_neg_one :
-    (idealX K).valuation (RatFunc K) RatFunc.X = WithZero.exp (-1 : ℤ) := by
-  rw [← RatFunc.algebraMap_X, valuation_of_algebraMap, intValuation_singleton, WithZero.exp]
+    (idealX K).valuation (RatFunc K) RatFunc.X = exp (-1 : ℤ) := by
+  rw [← RatFunc.algebraMap_X, valuation_of_algebraMap, intValuation_singleton]
   · exact Polynomial.X_ne_zero
   · exact idealX_span K
```
Comment (mariainesdff) [inline Mathlib/FieldTheory/RatFunc/AsPolynomial.lean]:
```suggestion
  rw [← RatFunc.algebraMap_X, valuation_of_algebraMap, intValuation_singleton
      _ (Polynomial.X_ne_zero) (idealX_span K)]
```

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 2]
```diff
@@ -88,8 +87,7 @@ theorem intValuationDef_zero : v.intValuationDef 0 = 0 :=
 
 open scoped Classical in
 theorem intValuationDef_if_neg {r : R} (hr : r ≠ 0) :
-    v.intValuationDef r =
-      Multiplicative.ofAdd
+    v.intValuationDef r = exp
         (-(Associates.mk v.asIdeal).count (Associates.mk (Ideal.span {r} : Ideal R)).factors : ℤ) :=
   if_neg hr
```
Comment (mariainesdff) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:93]:
```suggestion
```

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 3]
```diff
@@ -103,8 +101,7 @@ theorem intValuation.map_one' : v.intValuationDef 1 = 1 := by
   classical
   rw [v.intValuationDef_if_neg (zero_ne_one.symm : (1 : R) ≠ 0), Ideal.span_singleton_one, ←
     Ideal.one_eq_top, Associates.mk_one, Associates.factors_one,
```
Comment (mariainesdff) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean]:
```suggestion
  rw [v.intValuationDef_if_neg (zero_ne_one.symm : (1 : R) ≠ 0), Ideal.span_singleton_one, 
      ← Ideal.one_eq_top, Associates.mk_one, Associates.factors_one,
```

**Comment by mariainesdff** [comment]
Thanks!
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by bryangingechen** [comment]
just re-batching
bors r-
bors r+
